US03947466
A solution of the crude 8-chloro-1-[(aminomethyl)]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine in acetonitrile is treated successively with 37% formalin (1.5 ml) and sodium cyanoborohydride (0.375 g). During the next 1 hour 20 minutes, 2 ml. of a 10% (v/v) solution of acetic acid in acetonitrile is added periodically, dropwise in such a manner that the temperature of the mixture remains between 25°-30° without external cooling. When the reaction is complete, the pH of the solution is about 6.8 and no further rise in temperature is noted after the addition of acid. The mixture is stirred for an additional 25 minutes and concentrated in vacuo. The residue is dissolved in methanol and concentrated. This residue is dissolved in methanol (30 ml), treated with 25% aqueous ethylenediamine (15 ml) and refluxed for 45 minutes. The mixture is cooled, diluted with water, saturated with sodium chloride and extracted with chloroform. The extract is washed (brine), dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on silica gel (100 g) with 2% methanol-98% chloroform. The resulting product is crystallized from ethyl acetate-Skellysolve B hexanes to give 8-chloro-1-[(dimethylamino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine in 2 crops: 330 mg. of melting point 170°-172.5°C; 67 mg. of melting point 168°-171°C (total yield 37.6%).

reactant | 8-chloro-1-[(aminomethyl)]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CN)C3=CC=CC=C3)C1 | C17H14ClN5
reactant | formalin | 1.5 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 0.375 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 8-chloro-1-[(dimethylamino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | yield 37.6% | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CN(C)C)C3=CC=CC=C3)C1 | C19H18ClN5
